* D:\home\brosnan\books\circuits\Circuits-LTSpice\DCDC converters\Buck-converter.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N003 0 100
D1 0 N004 D
L1 N004 N005 1m
C1 N005 0 10µ
R1 N005 0 10
S1 N004 N003 N001 N002 MOSFET
V2 N001 N002 PULSE(0 100 0 1n 1n {D/Fs} {1/Fs} 1Meg)
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 50m
.model MOSFET SW(Ron=1u Roff=100Meg Vt=90)
* Switching frequency: 16 kHz
.param Fs = 16k
.param D = 0.5
* Buck converter
.backanno
.end
