* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Common-collector-emitter-follower-amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 Vcc N002 Vout_1 0 2N3904
R1 Vout_1 0 3.5k
V1 V_signal 0 SINE(0 100m 100k) AC 1
V2 Vcc 0 12
R2 Vcc N002 620k
C1 N002 V_signal 159µ
Q2 Vcc N008 Vout_2 0 2N3904
R3 Vout_2 0 3.5k
C2 N008 V_signal 159µ
R4 Vcc N008 50.6k
R5 N008 0 86.15k
R6 N001 V_signal 10m
R7 N003 N001 2.99k
R8 0 N004 3.5k
R10 N009 N007 2.99k
R11 0 N009 3.5k
F1 0 N004 V3 230
V3 N003 N004 0
V4 N006 N007 0
F2 0 N009 V4 230
C3 N005 Vout_1 159µ
R9 N005 0 100k
R12 N006 V_signal 10m
R13 N006 0 50.6k
R14 N006 0 86.15k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
* At the emitter there is the signal sent to the base. Example of negative feedback.
* Common collector configuration (also known as Emitter-Follower)
* Sizing:\n \n1) Set Vout quiescent point at 7 V\n2) Set Ie = 2 mA -> Re = R1 = 7/2 mA = 3.5k ohm\n3) Ib = Ie/(beta+1) = 8.7 uA approximately with beta=230\n4) Vbase = 7 + 0.6 = 7.6 V -> Rb = R2 = (12-7.6)/8.7uA = 505k ohm\n5) Cap should offer very low impedance at signal frequency 100kHz ->\nXc = 1/(2*pi*f*C) for instance 10m Ohm -> C = 1/(2*pi*f*0.01)=159 uF\n \nExpected gain: 0.996 -> 20*log10(0.996) = -34 mdB -> almost 1
.ac dec 100 1 1Meg
* Sizing same as above except R4 and R5 sizing:\n \n1) Set Vout quiescent point at 7 V\n2) Set Ie = 2 mA -> Re = R3 = 7/2 mA = 3.5k ohm\n3) Ib = Ie/(beta+1) = 8.7 uA approximately with beta=230\n4) Vbase = 7 + 0.6 = 7.6 V\nTotal current through R4 set 10* Ib = 87 uA\nR4 = (12-7.6)/87u=50.6k ohm\na=(7.6/12)=R5/(R5+R4) -> R5 = R4*a/(1-a)=86.15k \n5) Cap should offer very low impedance at signal frequency 100kHz ->\nXc = 1/(2*pi*f*C) for instance 10m Ohm -> C = 1/(2*pi*f*0.01)=159 uF\n \nOver previous configuration\nAdvantage: use lower value resistors for biasing\nDisadvantage: use 2 resistors for biasing\n \nExpected gain: 0.996 -> 20*log10(0.996) = -34 mdB -> almost 1
* Vbase
* Vbase
* Rs is almost zero (capacitor impedance)
* Rpi
* Re
* beta*ib
* Ib
* Vout
* Rs is 10m Ohm at signal frequency\nso it's omitted for simplicity. \nR12 and R3 (i.e. R4 and R5) are almost in \nparallel to the voltage source -> as if they were not there
* Rpi
* Re
* beta*ib
* Ib
* Vout
* Small signal NPN BJT model
* Small signal NPN BJT model
* Vo = Vout = (1+beta)*Ib = (1+beta)*Re*Vin/(Rs+rpi+(1+beta)*Re)\nIb = Vin/(Rs+rpi+(1+beta)*Re)\n \nrpi = (beta+1)*V_T/Ie_Q = 230*26m/2m = 2.99k ohm\nRs = 10m\n \nGain = (1+beta)*Re*/(Rs+rpi+(1+beta)*Re) = (1+229)*3.5k/(10m+ 2.99k +230*3.5k) = 0.996 -> about 1\n \nInput impedance=Vin/i_in = Vsignal/ib = Rs + rpi + (1+beta)*Re = 10m + 2.99k+3.5k*229 =804.49k ohm\n \nOutput impedance is Re//rpi/(1+beta) = 3.5k // (2.99k/229) = 12.95 ohm
* Vo = Vout = (1+beta)*Ib = (1+beta)*Re*Vin/(Rs+rpi+(1+beta)*Re)\nIb = Vin/(Rs+rpi+(1+beta)*Re)\n \nrpi = (beta+1)*V_T/Ie_Q = 230*26m/2m = 2.99k ohm\nRs = 10m\n \nGain = (1+beta)*Re*/(Rs+rpi+(1+beta)*Re) = (1+229)*3.5k/(10m+ 2.99k +230*3.5k) = 0.996 -> about 1\n \nInput impedance=Vin/i_in = Vsignal/ib = Rs + rpi + (1+beta)*Re = 10m + 2.99k+3.5k*229 =804.49k ohm\n \nOutput impedance is Re//rpi/(1+beta) = 3.5k // (2.99k/229) = 12.95 ohm (Rs is very low so it short circuits R4 and R5)
;tran 1m
.backanno
.end
