* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Common-emitter-amplifier-design.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vcc 0 12
V2 V_signal 0 SINE(0 10m 10k) AC 1
R1 Vcc N003 33k
R2 N003 0 3.3k
R3 N007 0 1.2k
R4 Vcc N002 4.7k
Q1 N002 N003 N007 0 2N3904
C2 N003 V_signal 2.2µ
R5 Vcc N006 33k
R6 N006 0 3.3k
R7 N008 0 1.2k
R8 Vcc N004 4.7k
Q2 N004 N006 N008 0 2N3904
C1 N006 V_signal 1µ
Cb N008 0 47µ
C4 Vout_2 N004 39µ
R9 Vout_2 0 100k
C5 Vout_1 N002 39µ
R10 Vout_1 0 100k
R11 Vcc N011 33k
R12 N011 0 2.0k
R14 Vcc N010 4.7k
Q3 N010 N011 0 0 2N3904
C3 N011 V_signal 2.2µ
C6 Vout_3 N010 39µ
R15 Vout_3 0 100k
R13 V_signal N013 2.99k
V3 N013 0 0
F1 N012 0 V3 229
R16 N012 0 4.7k
R17 V_signal N005 15.7k
V4 N005 N009 0
F2 N001 N009 V4 229
R18 N001 0 4.7k
R19 N009 0 1.2k
R20 V_signal 0 2.0k
R21 V_signal 0 33k
R22 V_signal 0 33k
R23 V_signal 0 3.3k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 100 1 10000Meg
* Without bypass capacitor, ideal for low value gain\n \nGain -> -R4/R3 -> 20*log10(R4/R3) = 10 dB
* With bypass capacitor, ideal for high gain since at signal frequency it short circuits R7\n \nGain = -R8*I(R8)/V_T = -R8/re -> 20*log10(R8*I(R8)/V_T) -> 20*log10((12-10.2)/0.26m) = 36.8 dB\nV_t = 26 mV @ 25°C
* Common-emitter class A amplifier\n \n1) Ideally: assume a few mV across R3, Va = 1 or 1.5 V and Vb between 1 and Vcc / 2\n \n2) Set R4 according to desired gain, for example, if gain desired is 3.92 then:\n| gain | = R4/R3 = 4.7k/1.2k= 3.92 -> 20*log10(3.92) = 11.86 dB (with phase 180, i.e. the input is multiplied by -1)\n \n3) Assume Vb = 10.2 V then -> Ic = (Vcc - 10.2)/R4 = 382 uA\nIe is practically equal to Ic so if we want 460 mV across R3 then R3 = 460 mV / 382 uA = 1.2k Ohm\n \n4) Va = 460mV + 600mV = 1.06 V. Approximately Ib = Ie/100 = 3.82 uA. Set R2 to 3.3 k Ohm so that total current through R1 is 325 uA\nR1 = (12 - 1.06)/325 uA) = 33.6k Ohm\n \n4) Size capacitor to be (in practice) short circuits at the desired frequency Xc = 1/(2*pi*f*C)
* A
* B
;tran 10m
* Cb should offer very low impedance at the signal frequency (i.e. it should be a short circuit).\nSo at the signal frequency R7 is short circuited by Cb and the gain is given by -R8/re
* Gain is equal to: - beta * Rc / (rpi + Re*(1 + beta)) = 3.6 -> 11.12 dB\nBeta = 382 uA /1.16 uA = 329\nwhere rpi=(beta+1)*V_T / Ie_Q = 22.46k ohm\nAssuming beta is high, gain is approximately equal to: -Rc/Re = 3.91 -> 11.84 dB\nIn our case Rc = R4 and Re=R3
* Common emitter configuration: high gain\n \nGain -> -R14*I(R14)/V_T = 51 dB
* A
* B
* Gain is equal to: - beta * Rc / (rpi + Re*(1 + beta))\nIf Re = 0, the gain equals: - beta * Rc / rpi. Where rpi=(beta+1)*V_T / Ie_Q\nIe_Q is roughly equal to Ic so the gain is approx to -beta*Rc*Ic/((beta+1)*V_T) that is approx: -Rc*Ic/V_T
* V_T = Thermal voltage -> 26 mV @ 25 °C\nIe_Q = Quiescent emitter current\nIc = Collector current
* Sizing:\n1) Ideally b point should be at 1 or 2 - 2.5 V. Set it 2.5 V.\n-> Gain is expected to be V(R14)/V_T = 365 -> 20*log10(365) = 51dB\n2) Set Ic to 2 mA -> Rc = R14 = (12 - 2.5)/2m = 4.7k ohm\n3) Ib = Ic/beta. If we assume beta=100 then Ib=2m/100= 20 uA\n4) Set total current through R11 and R12 to be 340 uA approx more than 10 times Ib and Va=0.67 mV\n5) R11 + R12 = 12/340uA = 35k ohm -> R12 = 0.67/12*35k = 2k ohm approximately
* Rc
* beta*Ib
* Ib
* rpi
* rpi = (beta+1)*re = (beta+1)*V_T/Ie_Q = 230*26m/2m = 2.99k ohm\nIe_Q approx equal to Ic
* Vout
* Small signal equivalent circuit when Re=0
* Rc
* beta*Ib
* Ib
* rpi
* Vout
* rpi = (beta+1)*re = (beta+1)*V_T/Ie_Q = 230*26m/2m = 2.99k ohm\nIe_Q approx equal to Ic
* Small signal equivalent circuit when Re!=0\nWithout bypass capacitor
* Vout = -Rc*beta*Ib = -Rc*beta*vin/rpi = -Rc*beta/((beta+1)*re)*vin\nVout = -Rc*beta/(beta+1)*re*vin = -Rc*Ie_Q*beta/((beta+1)*V_T)*vin\nre = V_T/Ie_Q\nGain =  -Rc*Ie_Q*beta/((beta+1)*V_T) -> approx -Rc*Ic/V_T
* Input impedance is R11//R12//rpi = 1.16k ohm
* Input impedance is R11//R12//rpi = 2.52k ohm
* Vout = Vo = -beta*Rc*vin/(rpi+(1+beta)*Re)\nGain = -beta*Rc/(rpi+(1+beta)*Re)\nApprox gain (beta high) -> -Rc/Re
.backanno
.end
