* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\Comparator-with-hysteresis-asymmetrical-window.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 SINE(0 5 1)
V2 Vcc 0 5
R1 N002 0 5k
R2 N001 N002 15k
X§U2 N002 Vin Vcc 0 N001 LT1720 ;§pnba In+)In-)V+)V-)OUT
.tran 1
* Comparator with hysteresis: asymmetric hysteresis window = [0, Va]
* A
* Assume Vcc = 5V, Vee=0 and rail to rail comparator.\n \nWorkings:\n1) When Vout is HIGH, then Vout = 5V and Va = 1.25V.\n2) If Vin > 1.25V, then Vout goes LOW and Vout =0V. Now Va = 0V.\n3) If Vin < 0V, then Vout goes HIGH again and the cycle repeats\n \nNotes:\n1) Hysteresis window width is (R1/(R1+R2)) Vcc = 1.25V.\n2) Hysteresis window is asymmetrical, only active for positive input voltages.\n3) Hysteresis window is [0, 1.25] V.
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1721.asy)
.lib LT1720.sub
.backanno
.end
