* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\Comparator-with-hysteresis-symmetrical-window.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 SINE(0 5 1)
V2 Vcc 0 5
R1 N002 0 5k
R2 N001 N002 15k
V3 Vee 0 -5
X§U2 N002 Vin Vcc Vee N001 LT1720 ;§pnba In+)In-)V+)V-)OUT
.tran 2
* Comparator with hysteresis: symmetrical hysteresis window = [-Va, Va]
* Assume Vcc = 5V = -Vee and rail to rail comparator.\n \nWorkings:\n1) When Vout is HIGH, then Vout = 5V and Va = 1.25V.\n2) If Vout > 1.25V, then Vout goes LOW and Vout = -5V. Now Va = -1.25 V.\n3) If Vout < -1.25 V, then Vout goes HIGH again and the cycle repeats\n \nNotes:\n1) Hysteresis window width is 2*(R1/(R1+R2)) Vcc = 2.5V.\n2) Hysteresis window is symmetrical and centered around zero.\n3) Hysteresis window is [-1.25, 1.25] V.
* A
* Vout
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1721.asy)
.lib LT1720.sub
.backanno
.end
