* D:\home\brosnan\books\circuits\Circuits-LTSpice\Comparator circuits\Comparator-with-hysteresis-window-shifted-from-origin.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Vin 0 SINE(0 10 1)
X§U1 N002 Vin Vcc 0 N001 LT1018 ;§pnba In+)In-)V+)V-)OUT
V3 Vcc 0 10
Rx N002 Vcc 10k
Ry N002 0 13.3k
Rh N001 N002 13.3k
.tran 1
* Assume Vcc = 10V, Vee=0 and rail to rail comparator.\n \nWorkings:\n1) When Vout is HIGH, then Vout = 10V, Rh and Rx are in parallel and\nVa = Ry/(Ry + Rx//Rh) Vcc = 13.3k/21.71k* 10 = 7V.\n2) If Vout > 7V, then Vout goes LOW and Vout =0V. Now Ry and Rh are in parallel and\nVa = (Ry//Rh)/(Rx + Ry//Rh) Vcc = 6.65k/16.65k * 10 = 4V.\n3) If Vout < 4V, then Vout goes HIGH again and the cycle repeats\n \nNotes:\n1) Hysteresis window width is 3V.\n2) Hysteresis window is shifted to the right of the orgin. Useful for light sensors.\n3) Hysteresis window is [4, 7] V.\n \nVin = Signal\nVh = Upper threshold of hysteresis cylce. When Vin > Vh, U1 goes low\nVL = Lower threshold of hysteresis cylce. When Vin < VL, U1 goes high\nRh = Hysteresis level resistor\n \nHow to design:\n1. Select Vcc, VL, Vh.\n2. Set Rx. Rx = user set (arbitrarily)\n3. Find Rh from Rh/Rx = VL/(Vh-VL)\n4. Find Ry from Ry/Rx = VL/(Vcc-Vh)\n \nIn the example:\n1. Vcc = 10V, VL = 4V, Vh=7V.\n2. Rx = 10k.\n3. Rh = 1.33 Rx\n4. Ry = 1.33 Rx
* Comparator with hysteresis: shifted hysteresis window.
* A
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1018.asy)
.lib LT1018.sub
.backanno
.end
