* D:\home\brosnan\books\circuits\Circuits-LTSpice\Current-mirrors\Current-source-BJT.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N001 N003 1k
R2 N003 0 10k
R3 N004 0 50k
R4 N001 N002 10k
V1 N001 0 9
Q1 N004 N003 N002 0 2N3906
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1 startup
* Current through R3 (Ic) is roughly equal to Ie.\n \nIe = ( Vcc - R2/(R2+R1)*V1 - 0.523 ) / R4\n \nThe assumption is that Veb = 0.523 V and Ic = Ie roughly.\n \nNote that whatever the value of R3 (be it 1 or a few hundreds of k Ohm)\nthe current through R3 is constant and roughly equal to the current through R4.\n \nFor R3 = 1Meg this is no longer true.
.backanno
.end
