* D:\home\brosnan\books\circuits\Circuits-LTSpice\Basics\DC-transfer-function-analysis.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 12
R1 out N001 1k
R2 out 0 1k
.tf V(out) V1
* DC transfer function analysis
* Provides:\n \nTF -> Vout/Vin as far as DC quantities are concerned -> 0.5 in this case\nInput impedance seen by the source -> 2k ohm in this case\nOutput impedance seen from Vout node -> 500 ohm in this case
.backanno
.end
