* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\DCDC-full-bridge.asc
* Generated by LTspice 26.0.1 for Windows.
E§U1 N002 N012 G={G}
S1 N009 N003 N002 0 SW
Vd N003 0 380
D1 N009 N003 D
D2 0 N009 D
S2 0 N009 N012 0 SW
D3 N010 N003 D
S3 N010 N003 N007 0 SW
D4 0 N010 D
S4 0 N010 N002 0 SW
R1 N009 N011 10
L1 N011 N010 100m
V_t N004 0 PULSE(-10 10 0 0.03124m 0.03124m 0.00002m 0.0625m)
vc N006 0 8
X§U2 N006 N004 N001 N008 N005 LT1720 ;§pnba In+)In-)V+)V-)OUT
Vcc N001 0 10
Vee N008 0 -10
E§U3 N005 N002 G={G} G=100
E§U4 N002 N007 G={G}
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model SW SW(Ron=1u Roff=100Meg Vt=90)
.tran 55m
* DC-DC full bridge bipolar voltage switching
* Fs = 16 kHz
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1721.asy)
.lib LT1720.sub
.backanno
.end
