* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Differences-amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N002 N001 Vcc Vee OUT LT1007 ;§pnba In+)In-)V+)V-)OUT
R1 N001 Va 1k
R3 N002 Vb 1k
R4 0 N002 1k
R2 N001 OUT 1k
V1 Vcc 0 30
V2 Vee 0 -30
V3 Va 0 5 AC 1
V4 Vb 0 1 AC 1
.tran 1s
* This circuit amplifies R2/R1 * (Vb  -  Va). \nSince R2 = R1, the output is simply Vb - Va.
* Difference amplifier
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
