* D:\home\brosnan\books\circuits\Circuits-LTSpice\Miscellaneous\Differential-pair.asc
* Generated by LTspice 26.0.1 for Windows.
Q1 B N004 N005 0 2N3904
Q2 A N003 N005 0 2N3904
R1 N001 B 180
R2 N001 A 180
V1 N001 0 12
R3 N001 N002 20k
R4 N002 0 10k
R5 N004 N002 9.9k
R6 N003 N002 9.9k
C1 N002 0 .1µ
C2 Vin N003 .1µ
R7 Vin 0 50
V2 Vin 0 SINE(0 10m 100k)
Q3 N005 N006 N007 0 2N3904
R8 N007 0 100
V3 N006 0 3
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 10m 9.9m
* Vout = Vab\nProportional to current Ic
* Ic
* Differential pair
.backanno
.end
