* D:\home\brosnan\books\circuits\Circuits-LTSpice\Power-lines\Ferranti-effect-lines.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N004 0 SINE(0 100 50) AC 1
R1 N005 N004 7.54
L1 N006 N005 48m
C1 N006 0 120µ
V2 N001 0 SINE(0 100 50) AC 1
R2 N002 N001 7.54
L2 N003 N002 48m
C2 N003 0 12µ
V3 N007 0 SINE(0 100 50) AC 1
R3 N009 N008 7.54
L3 N010 N009 48m
C3 N010 0 60µ
L4 N008 N007 3m
C4 N008 0 60µ
;tran 1
.ac dec 1000 10 80
* Case 1\n \n1. Aerial line\n2. Naked conductors\n3. Unloaded line (capacitive end load)\n \nGain is 1.06 or 0.5 dB
* Case 2\n \n1. Underground cable line\n2. Conductors insulated with EPR insulation\n3. Unloaded line (capacitive end load)\n \nGain is 1.94 or 5.73 dB
* Case 3\n \n1. Underground cable line\n2. Conductors insulated with EPR insulation\n3. Unloaded line (capacitive end load)\n4. Capacitance is split according to pi line model\n5. Transformer reactance is taken into account\n \nTransformer reactance 0.0124 pu with zbase 4.84 ohm -> 0.96 ohm\n \nGain is 1.41 or 2 dB
* Ferranti effect
.backanno
.end
