* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Full-bridge-rectifier.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 N002 SINE(0 4.86 88)
D2 N001 OUT 1N4148
D3 0 N001 1N4148
D4 N002 OUT 1N4148
D5 0 N002 1N4148
R2 OUT 0 250
C1 OUT 0 600µs
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 0.1s 0 0.06ms
* Full bridge rectifier
* Transient simulation
.backanno
.end
