* D:\home\brosnan\books\circuits\Circuits-LTSpice\AC-DC and DC-AC converters\Half-bridge-inverter.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N006 0 380
C1 N006 N007 1m Rser=1m Rpar=1Meg
C2 N007 0 1m Rser=1m Rpar=1Meg
R1 N008 N007 1
L1 N008 N009 10m
S1 N009 N006 Tp 0 SW
D1 N009 N006 D
S2 0 N009 Tm 0 SW
D2 0 N009 D
V3 N004 0 SINE(0 8 160)
X§U1 N004 N002 N001 N005 N003 LT1720 ;§pnba In+)In-)V+)V-)OUT
V4 N001 0 10
V5 N005 0 -10
E§U2 Tp Tm G={G}
V2 N002 0 PULSE(-10 10 0 0.03124m 0.03124m 0.00002m 0.0625m)
E§U3 N003 Tp G={G} G=100
R2 N007 0 1
R3 N006 N007 1
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model SW SW(Ron=1u Roff=100Meg Vt=90)
.tran 60m
* Control signal frequency is 160 Hz\nFirst harmonic of voltage should be 160 Hz (Note current has 160 Hz and a ripple)\n \nFirst voltage harmonic amplitude is: V1 = ma Vd/2 = (8/10)*(380/2) = 152V\nFirst harmonic voltage frequency is 160Hz\nFirst current harmonic amplitude is: I1 = V1/Z1 = 15 A\nWith Z1 = sqrt(1+(2pi*160*10mH)^2)
* Half bridge inverter
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1721.asy)
.lib LT1720.sub
.backanno
.end
