* D:\home\brosnan\books\circuits\Circuits-LTSpice\Basics\How-to-set-initial-conditions.asc
* Generated by LTspice 26.0.1 for Windows.
C1 OUT 0 1
R1 OUT 0 1
.ic V(OUT)=10
.tran 5
* Example of setting initial conditions
.backanno
.end
