* D:\home\brosnan\books\circuits\Circuits-LTSpice\Amplifiers\Instrumentation-amplifier.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 Vb N001 Vcc Vee N002 LT1007 ;§pnba In+)In-)V+)V-)OUT
X§U2 Va N005 Vcc Vee N006 LT1007 ;§pnba In+)In-)V+)V-)OUT
X§U3 N004 N003 Vcc Vee OUT LT1007 ;§pnba In+)In-)V+)V-)OUT
Rg N001 N005 20k
R2 N005 N006 10k
R1 N002 N001 10k
R3 N003 N002 10k
R4 N004 N006 10k
R6 0 N004 10k
R5 OUT N003 10k
V1 Va 0 10
V2 Vb 0 0
V3 Vcc 0 30
V4 Vee 0 -30
.tran 1s
* R1
* R1
* R2
* R2
* R3
* R3
* Using the blue names for the resistors:\n \nVout = (Va - Vb) * (1 + 2R1/Rg)R3/R2
* Instrumentation amplifier
* Library below included based on ModelFile attribute of instance X§U1, X§U2, X§U3 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
