* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Inverting-integrator-and-derivative.asc
* Generated by LTspice 26.0.1 for Windows.
R1 OUT1 N001 30k
C1 OUT1 N001 100µ
R2 N001 N003 1k
V1 N003 0 PULSE(0 1 0 1n 1n 0.2s 0.4s) AC 1
V2 Vcc 0 30
V3 Vee 0 -30
X§U2 0 N001 Vcc Vee OUT1 LT1007 ;§pnba In+)In-)V+)V-)OUT
X§U4 0 N002 Vcc Vee OUT2 LT1007 ;§pnba In+)In-)V+)V-)OUT
R3 N004 OUT1 1k
C2 N002 N004 1µ
R4 OUT2 N002 30k
.tran 0 22s 20s
;ac dec 100 1 100Meg
* From square to triangular wave
* Inverting derivative:\nfrom triangular to square wave
* Inverting integrator and derivative
* Library below included based on ModelFile attribute of instance X§U2, X§U4 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
