* D:\home\brosnan\books\circuits\Circuits-LTSpice\Signal processing\Inverting-sum.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Va 0 PULSE(0 1 0 1n 1n 100ms 200ms)
V2 Vb 0 PULSE(0 1 0 1n 1n 100ms 200ms)
V3 Vc 0 PULSE(0 1 0 1n 1n 100ms 200ms)
V4 Vcc 0 15
V5 Vee 0 -15
X§U1 0 N001 Vcc Vee Out LT1007 ;§pnba In+)In-)V+)V-)OUT
R1 N001 Va 1k
R2 N001 Vb 1k
R3 N001 Vc 1k
R4 Out N001 1k
.tran 1s
* Vout =-( Va + Vb + Vc)
* Inverting sum
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\OpAmps\LT1007.asy)
.lib LTC.lib
.backanno
.end
