* D:\home\brosnan\books\circuits\Circuits-LTSpice\Filters\RLC\LC-and-RC-series- bandpass-filter.asc
* Generated by LTspice 26.0.1 for Windows.
L1 N002 N001 25.3µ
C1 N002 0 10µ
C2 N003 N001 1.591µ
R1 N003 0 1k
V1 N001 0 AC 1
L2 N004 N001 25.3µ Rser=100m
C3 N004 0 10µ
C4 N005 N004 1.591µ
R2 N005 0 1k
.ac dec 100 1m 100Meg
* Low pass filter cut-off frequency: f = 10 kHz\nResonance at: 10 kHz
* High pass filter cut-off frequency: f = 100 Hz
* Band pass filter. Passing band: 100 Hz to 10k Hz\nResonance peak at 10 kHz can be smoothed by adding more series resistance to the inductance
* LC + RC series band pass filter
.backanno
.end
