* D:\home\brosnan\books\circuits\Circuits-LTSpice\Oscillators\LED-blinking-oscillator.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N002 0 10µ
R1 N003 N002 144.8k
R2 N003 N006 2k
R3 0 N006 1k
V1 Vcc 0 10
R4 N005 N003 115k
Q1 N004 N005 0 0 2N2222
R5 N001 N004 487
D1 Vcc N001 QTLP690C
V2 Vee 0 -10
X§U2 N006 N002 Vcc Vee N003 LT1720 ;§pnba In+)In-)V+)V-)OUT
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5 startup
* Period = T = 2*R1*C*ln(1+2*R2/R3)
* LED blinking oscillator
* Library below included based on ModelFile attribute of instance X§U2 (C:\users\brosnan\AppData\Local\LTspice\lib\sym\Comparators\LT1720.asy)
.lib LT1720.sub
.backanno
.end
