* D:\home\brosnan\Desktop\LT_VERSION_4_1.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 5
R1 N001 N002 10k
R2 N001 N002 20k
C1 N002 N003 0.01
L1 N002 N003 0.06 Rser=1m
D1 N003 0 D
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 1 10 0.1
.backanno
.end
