* D:\home\brosnan\books\circuits\Circuits-LTSpice\Logic-circuits\Logic-gates-diodes-transistors.asc
* Generated by LTspice 26.0.1 for Windows.
D1 Signal_1 OR_out 1N4148
D2 Signal_2 OR_out 1N4148
R1 OR_out 0 10k
D3 AND_out Signal_1 1N4148
D4 AND_out Signal_2 1N4148
R2 Vcc AND_out 10k
V1 Vcc 0 12
V2 Signal_1 0 PULSE(0 12 0 1n 1n 1 2 1)
V3 Signal_2 0 PULSE(0 12 0.5 1n 1n 1 2 1)
R3 Vcc NOT_out 10k
Q1 NOT_out N004 0 0 2N3904
R4 N004 Signal_1 1k
R12 Vcc XOR_out 10k
Q6 XOR_out N003 0 0 2N3904
R13 N003 N001 1k
Q7 N001 N002 Signal_2 0 2N3904
Q8 N001 N005 Signal_1 0 2N3904
R14 N005 Signal_2 10k
R15 N002 Signal_1 10k
R16 Vcc N001 10k
.model D D
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 3
* AND gate
* OR gate
* Logic gates with diodes and transistors
* NOT gate
* XOR gate
.backanno
.end
