* D:\home\brosnan\books\circuits\Circuits-LTSpice\Lossless-transmission-line\Lossless-transmission-line-DC-transient.asc
* Generated by LTspice 26.0.1 for Windows.
T1 N002 0 N003 0 Td=50n Z0=50
V1 N001 0 PULSE(0 1 1p 1p 1p 10s) AC 1
RS N002 N001 1k
RL N003 0 1k
.tran 3.5u
;.ac dec 1000 100Meg 1G
* Lossless TL
* Try \n1. matched line Rs = RL = 50 ohm both in time and frequency domain --> No reflection occurs line simply adds a delay of Td\n2. Non matched line Rs = RL = 75  Ohm --> Reflection occurs\n3. Non matched line Rs = RL = 1k Ohm --> Reflection occurs
* Lossless transmission line: DC transient
.backanno
.end
